US07157488B2
3-Benzylbenzaldehyde
Combine (3-[1,3]dioxolan-2-ylphenyl)-phenyl-methanol (2.3 g, 8.7 mmol) and sodium iodide (5.3 g, 35.0 mmol) in acetonitrile (25 ml). Add dichloromethylsilane (2.1 ml, 17.4 mmol) via syringe. After 10 min, dilute with EtOAc and wash with water, saturated sodium bicarbonate, 10% sodium thiosulfate, and then brine. Dry the organic layers (Na2SO4), filter, and concentrate to give a residue. Chromatograph the residue eluting with 9:1 hexane:EtOAc to give the title compound.

reactant | (3-[1,3]dioxolan-2-ylphenyl)-phenyl-methanol | 8.7 mmol, 2.3 g | O1C(OCC1)C=1C=C(C=CC1)C(O)C1=CC=CC=C1 | C16H16O3
reactant | sodium iodide | 35.0 mmol, 5.3 g | [I-].[Na+]
reactant | dichloromethylsilane | 17.4 mmol, 2.1 ml | ClC(Cl)[SiH3] | CH4Cl2Si
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Benzylbenzaldehyde | C(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C14H12O
